US05866589
2-Bromo-3-formylpyridine (XVI)
Lithium diisopropylamide (1.0M in THF, 12.6 mmol) is added to a stirring solution of 2-bromopyridine (2.0 g, 12.6 mmol) in THF (10 ml) at -78° under nitrogen. The resulting mixture is stirred at -78° for two hours followed by addition of dimethylformamide (12.6 mmol) in THF (5 ml) at -78°. The mixture is allowed to warm to 20°-25°, poured into a saturated aqueous solution of ammonium chloride (100 ml), and extracted with ethyl acetate (3×50 ml). The organic phases are combined, dried over sodium sulfate and solvent removed under reduced pressure. The resulting residue is purified via flash chromatography (silica gel; hexane/ethyl acetate (4/1)) to give the title compound, mp 74°-76°; NMR (CDCl3) 7.45, 8.19, 8.59, 10.35δ; MS (EI, m/e) 185 (M+).

reactant | Lithium diisopropylamide | 12.6 mmol, 1.0M | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-bromopyridine | 12.6 mmol, 2.0 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | dimethylformamide | 12.6 mmol | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-Bromo-3-formylpyridine | BrC1=NC=CC=C1C=O | C6H4BrNO
